US03974181
7,9,9-Trimethyl-1,4-Dioxaspiro [4,5] dec-7-en-8-Carboxylic Acid Methyl Ester
670 g. of crude 2,6,6-trimethyl-4-ethoxy-1,3-cyclohexadien-1-carboxylic acid methyl ester and 185 g. of ethylene glycol were heated in 3 l. of benzene in the presence of 3 g. of p-toluene sulfonic acid. The reaction was stopped after 1.5 l. of benzene had distilled over. The cold solution was washed with sodium bicarbonate solution and water, dried, and evaporated. The remaining oil was identified as 7,9,9-trimethyl-1,4-dioxaspiro [4,5] dec-7-en-8-carboxylic acid methyl ester.

reactant | 2,6,6-trimethyl-4-ethoxy-1,3-cyclohexadien-1-carboxylic acid methyl ester | COC(=O)C1=C(C=C(CC1(C)C)OCC)C | C13H20O3
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7,9,9-Trimethyl-1,4-Dioxaspiro [4,5] dec-7-en-8-Carboxylic Acid Methyl Ester | COC(=O)C1=C(CC2(OCCO2)CC1(C)C)C | C13H20O4
